US03932503
4 g of N-[4-(β-<2-methoxy-5-methylbenzamido>-ethyl)-benzenesulfonyl]-methyl-urethane (melting point 175° - 177°C) are suspended in 75 ml of dioxane and 1.7 g of 3-ethoxy-4-methyl-cyclohexylamine (boiling at 80°C under a pressure of 10 mm of mercury) obtained by hydrogenation of the nucleus of 3-ethoxy-4-methylaniline at Co2O3 at 260° C and 250 atmospheres H2) are added. The whole is heated for 1 hour to 110°C. Then the N-[4-(β-<2-methoxy-5-methylbenzamido>-ethyl)-benzenesulfonyl]-N'-(3-ethoxy-4-methyl-cyclohexyl)-urea is precipitated by means of water. The cristals melt after recrystallization from methanol at 172°- 174°C.

reactant | methyl-urethane | CNC(=O)OCC | C4H9NO2
reactant | 3-ethoxy-4-methylaniline | C(C)OC=1C=C(N)C=CC1C | C9H13NO
solvent | dioxane | 75 ml | O1CCOCC1 | C4H8O2
product | 3-ethoxy-4-methyl-cyclohexylamine | 1.7 g | C(C)OC1CC(CCC1C)N | C9H19NO
